US05182404
N,N'-Bis(3-hydroxy-2-methylpropan-2-yl)-5,6-methylenedioxy-5',6'-methylenedioxy-2,2'-biphenyldicarboxamide (3 g) is added to thionyl chloride (20 ml), and the mixture is stirred at room temperature for 2 hours. The reaction mixture is distilled under reduced pressure to remove thionyl chloride, and the residue is dissolved in ethyl acetate. The solution is washed, dried and distilled to remove the solvent, and the residue is crystallized from diisopropyl ether to give 5,6-methylenedioxy-5',6'-methylenedioxy-2,2'-bis(4,4-dimethyl-4,5-dihydro-2-oxazolyl)biphenyl (2 g) as colorless crystal. M.p. 152°-154° C.

reactant | N,N'-Bis(3-hydroxy-2-methylpropan-2-yl)-5,6-methylenedioxy-5',6'-methylenedioxy-2,2'-biphenyldicarboxamide | 3 g | OCC(C)(C)NC(=O)C=1C(=C2C(=CC1)OCO2)C=2C(=CC=C1C2OCO1)C(=O)NC(C)(CO)C | C24H28N2O8
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 5,6-methylenedioxy-5',6'-methylenedioxy-2,2'-bis(4,4-dimethyl-4,5-dihydro-2-oxazolyl)biphenyl | 2 g | C1OC=2C=CC(=C(C2O1)C1=C(C=CC2=C1OCO2)C=2OCC(N2)(C)C)C=2OCC(N2)(C)C | C24H24N2O6
